Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
___ EGD/Colonoscopy

 
History of Present Illness:
___ y/o male with ___ year history of abdominal pain who presents 
with 15 lb unintentional weight loss over past year and altered 
bowel habits characterized by greasy, malodorous stools.  

With regards to his chronic abdominal pain, he notes that this 
has been ongoing for at least ___ years.

He describes it as epigatric pressure that occurs all the time, 
with epigastic pain coming in waves with radiation to his back. 
He cannot think of the initial instigating factor behind his 
epigastric pain. 

He did have his gallbladder taken out ___ years ago, and noticed 
that his abdominal pain had improved slightly following surgery. 
However, he reports that the pain "creeped back up over time." 
He does feel short of breath when his abdominal pain acts up. He 
states that spicy food aggravates the pain. 

Reducing his oral intake will alleviate the pain. He cannot 
think of other alleviating or aggravating factors. 

 
 When he experiences exacerbations of his abdominal pian, he 
notes changes in his bowel movements such that they're greasy, 
malodorous, and floating in the bowl.

 He notes loose stools during these episodes rather than frank 
diarrhea. This stool pattern has been ongoing since he had his 
gallbladder taken out. He does report having a normal stool 
pattern when he is not having these pain episodes. 

However, loose, greasy, malodorous stools have become more 
frequent over the past year (weekly vs monthly before). 

He denies blood loss in his stools or black stools. 

Last week, he states he had multiple days of diarrhea and was 
placed on empiric C.diff treatment by his PCP, which was 
discontinued when his C. diff testing resulted as negative. 
 
 Since his cholecystectomy, he has been losing weight gradually 
(he estimates ___ lbs lost each year). However, within the past 
year, he has lost 15 lbs with ten of these pounds lost within 
the past month. He reports having a good appetite throughout 
this time frame and eats 3 meals per day (though consumes little 
with each meal). Eating aggravates his abdominal pain and bowel 
habits. Recently, he endorses feeling full more quickly. He 
states that about ___ years ago, he weighed 170 pounds. Today in 
clinic, he weighed 139 pounds.  

 With regards to his management, he reports having had EGDs and 
colonoscopies in the past with negative workup (last scopes were 
done a few years ago). He underwent a CT Torso in ___ and 
___ that the only significant findings were a Zenker's 
diverticulum and hernia. 

He has tried PPIs and diet modifications in the past 
(specifically avoiding coffee and wine). He was placed on 
Cholestyramine in ___ and ___ that it helped to solidify his 
stool (still remain malodorous and float in the bowl). 

He had previously had his workup done at ___. 
He had been referred to the ___ GI department by a friend who 
has pancreatic exocrine insufficiency. 

The patient was seen in outpatient GI clinic today and referred 
for inpatient workup given profound weight loss and limited po 
intake.

  
 He denies any family history of pancreatitis, pancreatic 
cancer, or other GI cancers. He denies family history of IBD, 
Celiac's disease, or gluten sensitivity.

 He denies fevers, rashes, ulcers, new joint pains (has had 
joint pains chronically for years), or rectal symptoms. He 
denies history of intestinal resection or bypass operations. He 
has never had C. diff positivity, despite empiric treatment as 
above. Last antibiotic use prior to this episode was six weeks 
ago in the setting of a sinus infection. 

Most recent travel was to ___ but outside of that 
instance, he has not traveled outside of ___ in past couple of 
years.  
 
Past Medical History:
 Appendectomy as child  
 Cholecystectomy  
 Deviated septum 
 
Social History:
___
Family History:
Noncontributory 
 
Physical Exam:
Admission Exam:
GENERAL: Alert and interactive. In no acute distress.  
 HEENT: +Temporal wasting, +sunken cheeks. NCAT. PERRL, EOMI. 
Sclera anicteric and without injection. MMM.  
 NECK: No cervical lymphadenopathy.  
 CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.  
 LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi 
or rales. No increased work of breathing.  
 BACK: No spinous process tenderness. No CVA tenderness.  
 ABDOMEN: Normal bowels sounds, non distended, tender to 
palpation in epigastrum. No rebound/guarding. No organomegaly.  
 EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally. No joint swelling or redness  
 SKIN: Warm. No rash. Mild telangiectasias  
 NEUROLOGIC: ___ strength throughout. Normal sensation. AOx3.

Discharge Exam:
GENERAL: Thin, Temporal wasting, NAD. 
CARDIAC: Regular rhythm, normal rate no murmurs
LUNGS: Clear to auscultation bilaterally. No wheezes
ABDOMEN: Normal bowels sounds, non distended, tender to 
palpation
in epigastrum. No rebound/guarding. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally. No joint swelling or redness
 
Pertinent Results:
Labs:

___ 06:50PM BLOOD WBC-5.9 RBC-4.05* Hgb-12.5* Hct-37.4* 
MCV-92 MCH-30.9 MCHC-33.4 RDW-12.8 RDWSD-42.9 Plt ___
___ 06:50PM BLOOD Neuts-56.0 ___ Monos-9.2 Eos-0.7* 
Baso-0.3 Im ___ AbsNeut-3.30 AbsLymp-1.98 AbsMono-0.54 
AbsEos-0.04 AbsBaso-0.02
___ 06:50PM BLOOD Glucose-99 UreaN-12 Creat-1.1 Na-144 
K-4.0 Cl-106 HCO3-24 AnGap-14
___ 06:50PM BLOOD ALT-37 AST-28 AlkPhos-89 TotBili-0.5
___ 06:50PM BLOOD Lipase-23
___ 06:50PM BLOOD cTropnT-<0.01
___ 06:50PM BLOOD Albumin-4.2 Calcium-9.0 Phos-3.9 Mg-2.0
___ 07:15AM BLOOD TotProt-6.2*
___ 02:04AM BLOOD calTIBC-213* VitB12-696 Folate-15 
Ferritn-583* TRF-164*
___ 06:25AM BLOOD T4-4.7
___ 06:25AM BLOOD TSH-1.1
___ 02:04AM BLOOD 25VitD-30
___ 02:04AM BLOOD CRP-0.6
___ 01:32PM BLOOD PEP-NO SPECIFI ___ FreeLam-10.8 
Fr K/L-1.2
___ 07:15AM BLOOD IgA-226
___ 07:15AM BLOOD HIV Ab-NEG
___ 07:15AM BLOOD tTG-IgA-4
___ 07:32PM BLOOD Lactate-1.4
___ 01:32PM BLOOD ZINC (SPIN NVY/EDTA)-Test      
___ 01:32PM BLOOD ALPHA-1-ANTITRYPSIN-Test      
___ 07:15AM BLOOD SED RATE-Test  

CTA. CT enterography:
IMPRESSION:
 
1. Limited examination due to under distension of small bowel.  
Short
intussusception in the mid jejunum, common incidental finding.  
If this is of potential clinical concern, however, particularly 
given limited bowel
distension, follow-up MR enterography could be considered within 
the next few months as clinically indicated.
2. Two nonobstructing left nephrolithiasis.    

___ Colonoscopy 
Normal mucosa in entire colon an 10cm of ileum. Numerous random 
biopsy taken

___ EGD
-Normal mucosa in esophagus
-Normal appearing stomach, 
-Normla mucosa duodenum
-Poly fundus- biopsy taken

 
Brief Hospital Course:
see worksheet
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.5 mg PO Q8H:PRN urinary retention 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___  
It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?  
- Because you had abdominal pain

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- We did tests to figure out why your abdomen is hurting
- The workup was not complete by the time you left the hospital
- We started you on medication to try to help you abdominal pain

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and keep your 
appointments.

We wish you the best!

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___